*
.SUBCKT BCV49 1 2 3
*
* For use with Microsim PSPICE
* please modify the AREA statement
* in this model:  e.g.
* SPICE:
* Q2 1 22 3 BCV49 AREA = 5.1
* PSPICE:
* Q2 1 22 3 BCV49 5.1
* VTF, ITF, XTF are set to
* default values
*
* housing parasitics
LB 2 22 3.45E-09
LE 3 33 3.54E-09
LC 1 11 1E-10
*
CBCG 22 11 1.7E-13
CBEG 22 33 6.5E-14
CCEG 11 33 1.7E-13
*
Q1 11 22 222 BCV49 AREA = 1
Q2 11 222 33 BCV49 AREA = 5.1
*
.MODEL BCV49 NPN
+(
+ IS = 1.35E-14
+ NF = 0.9889
+ ISE = 4.441E-28
+ NE = 1.03
+ BF = 204
+ IKF = 0.1
+ VAF = 94
+ NR = 1
+ ISC = 1E-32
+ NC = 2
+ BR = 5
+ IKR = 0.1
+ VAR = 10
+ RB = 45
+ IRB = 7E-06
+ RBM = 1
+ RE = 0.25
+ RC = 2
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.445E-11
+ VJE = 0.9
+ MJE = 0.3635
+ TF = 7E-10
+ XTF = 1
+ VTF = 1000
+ ITF = 0.01
+ PTF = 0
+ CJC = 4.89E-12
+ VJC = 0.6559
+ MJC = 0.5115
+ XCJC = 1
+ TR = 1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.999
+)
*
.ENDS
*